US07951905B2
To the mixture of Fmoc-Trp(Boc)-OH (205 mg, 0.39 mmol) and benzylamine (165 μL, 1.51 mmol) in DMF (5 mL) was added TBTU (249 mg, 0.77 mmol) and N,N-diisopropylethylamine (340 μL, 1.95 mmol). The reaction was stirred for 2 hours at room temperature. The solvent was removed in vacuo and the residue was purified by flash column silica gel chromatography (2:1, hexane:ethyl acetate) to yield the Fmoc-Trp(Boc)-NHBn (151 mg, 63%). The solution of Fmoc-Trp(Boc)-NHBn (151 mg, 0.25 mmol) and piperidine (0.5 mL) in DMF (2 mL) was stirred for 1 hour at room temperature. The solvent was removed in vacuo and the crude product was purified by flash column silica gel chromatography (from ethyl acetate to 5% methanol in ethyl acetate) to afford the NH2-Trp(Boc)-NHBn (81 mg, 80%). Compound 16 (23 mg, 0.04 mmol) was dissolved in DMF (2 mL) and NH2-Trp(Boc)-NHBn (72 mg, 0.18 mmol), TBTU (33 mg, 0.10 mmol), and N,N-diisopropylethylamine (37 μL, 0.21 mmol). The mixture was stirred for 4 hours at room temperature before removing the solvent under reduced pressure. The crude product was purified by flash chromatography using ethyl acetate as eluent to afford 17 (24 mg, 63%).

reactant | Fmoc-Trp(Boc)-NHBn | 0.25 mmol, 151 mg | N([C@@H](CC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)C(=O)NCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H37N3O5
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | NH2-Trp(Boc)-NHBn | 81 mg, 80% | N[C@@H](CC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)C(=O)NCC1=CC=CC=C1 | C23H27N3O3
